US07157447B2
N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A 25 mL round-bottom flask was charged with intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid, (0.991 g, 3.0 mmol), intermediate 39, 2-(aminomethyl)-5-fluoro-N-methylbenzamide trifluoroacetic acid salt (1.185 g, 4.0 mmol), 4-dimethylaminopyridine (DMAP, 1.1 g, 9.0 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 1.722 g, 4.5 mmol). Dimethylformamide (20 mL) was added and the mixture stirred for 1 h at ambient temperature. After this, the reaction mixture was diluted with ethyl acetate (100 mL) then washed with water (3×25 mL) and brine (25 mL). The organic layer was dried (Na2SO4), filtered, concentrated and purified by flash chromatography (SiO2), eluting with hexanes/ethyl acetate (1:1 to 1:3) followed by ethyl acetate, to afford the title compound as an off-white solid (1.48 g, 100% yield). 1H NMR (500 MHz, CDCl3) δ ppm: 8.49 (1H, t, J=6.1 Hz), 7.48–7.46 (2H, m), 7.43 (1H, dd, J=8.5, 5.5 Hz), 7.31–7.27 (3H, m), 7.12 (1H, dd, J=8.9, 2.7 Hz), 7.05 (1H, td, J=8.2, 2.7 Hz), 6.52 (1H, br s), 5.26 (2H, s), 4.53 (2H, d, J=6.4 Hz), 4.01 (2H, t, J=4.9 Hz), 3.96 (2H, t, J=4.9 Hz), 2.97 (3H, d, J=4.9 Hz), 1.62 (6H, s). HRMS (M+H) calcd for C26H28FN4O5: 495.2044. found: 495.2032.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | 3.0 mmol, 0.991 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 2-(aminomethyl)-5-fluoro-N-methylbenzamide trifluoroacetic acid salt | 4.0 mmol, 1.185 g | FC(C(=O)O)(F)F.NCC1=C(C(=O)NC)C=C(C=C1)F
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 4.5 mmol, 1.722 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 9.0 mmol, 1.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 1.48 g, 100% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C(NC)=O | C26H27FN4O5
